US05424414
Preparation of 3-Phenyl-l-adamantaneacetic acid, a hapten. Methyl 3-bromoadamantaneacetate (80 g) (Aldrich Chemical Co. Milwaukee Wis.) was dissolved in benzene (1.6 L) under nitrogen. Aluminum trichloride (37.12 g) was added portionwise over 75 min. at ambient temperature. The reaction mixture was then quenched by the addition of 0.5M phosphoric acid (1.6 L). The layers were separated and the organic layer was dried over sodium sulfate, filtered, and evaporated in vacuo to give methyl 3-phenyl-1-adamantaneacetate (80 g).

reactant | 3-Phenyl-l-adamantaneacetic acid | C1(=CC=CC=C1)C12CC3(CC(CC(C1)C3)C2)CC(=O)O | C18H22O2
reactant | Methyl 3-bromoadamantaneacetate | 80 g | BrC12CC3(CC(CC(C1)C3)C2)CC(=O)OC | C13H19BrO2
reactant | Aluminum trichloride | 37.12 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | benzene | 1.6 L | C1=CC=CC=C1 | C6H6
product | methyl 3-phenyl-1-adamantaneacetate | 80 g | C1(=CC=CC=C1)C12CC3(CC(CC(C1)C3)C2)CC(=O)OC | C19H24O2
